US06787652B1
2-[4-(3-Bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid cyclohexylmethyl ester
To a solution of cyclohexylmethanol (9 μmol) in DMF were added sequentially solutions of 2-[4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid (5 μmol), diisopropylcarbodiimide (10 umol) and 4-dimethylaminopyridine (10 μmol). The resulting solution was shaken at 50° C. for 18 h. HPLC and LCMS shows the starting material to be consumed and the desired product present. MS Calc.: 557.1; Found: 556.1 (M−1).

reactant | cyclohexylmethanol | 9 μmol | C1(CCCCC1)CO | C7H14O
reactant | 2-[4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid | 5 μmol | BrC=1C=C(OC2=C(C=C(C=C2C)N2N=C(C(NC2=O)=O)C(=O)O)C)C=CC1OC | C19H16BrN3O6
reactant | diisopropylcarbodiimide | 10 umol | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 10 μmol | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[4-(3-Bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid cyclohexylmethyl ester | C1(CCCCC1)COC(=O)C=1C(NC(N(N1)C1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)OC)Br)C)=O)=O | C26H28BrN3O6
